US06133303
Step 1: 7-Hydroxy-1.2,3,4-tetrahydro-4-quinolinone
A solution of 1.1 g (6.2 mmol) of 7-methoxy-1,2,3,4-tetrahydro-4-quinolinone (Rec. Trav. Chim., 1963;82:39) in 35 mL of CH2Cl2 was cooled in ice and treated with 5.0 mL of BBr3. After stirring at 0° C. for 0.5 hour, the solution was allowed to stir at room temperature overnight. The solution was poured into ice water and made basic with 50% NaOH. After extracting with Et2O, the pH was brought to 5.5 with dilute HCl, and the solution extracted twice with EtOAc. The EtOAc was washed with saturated NaCl and dried over MgSO4. Removal of the solvent under reduced pressure gave 0.5 g (49.5% yield) of the product as an orange solid. The structure was confirmed by NMR and mass spectroscopy. MS m/z 164 (M+H+).

reactant | 7-methoxy-1,2,3,4-tetrahydro-4-quinolinone | 6.2 mmol, 1.1 g | COC1=CC=C2C(CCNC2=C1)=O | C10H11NO2
reactant | BBr3 | 5.0 mL | B(Br)(Br)Br | BBr3
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
product | 7-Hydroxy-1.2,3,4-tetrahydro-4-quinolinone | 0.5 g, 49.5% yield | OC1=CC=C2C(CCNC2=C1)=O | C9H9NO2
